US04625034
N-Methyl-2-[3-(1-hydroxyhexyl)phenoxymethyl]-1,2,3,4-tetrahydroquinoline
A mixture of 0.88 g (0.0025 mol) N-methyl-1,2,-dihydro-2-[3-(1-hydroxyhexyl)phenoxymethyl]quinoline and 0.05 g Pd/C (10%) in 100 ml ethanol was hydrogenated at 50 psi for a period of 2 hours. After filtration and evaporation of the solvent under reduced pressure, the residue was passed through a silica gel column and the desired product was isolated.

reactant | N-methyl-1,2,-dihydro-2-[3-(1-hydroxyhexyl)phenoxymethyl]quinoline | 0.0025 mol, 0.88 g | CN1C(C=CC2=CC=CC=C12)COC1=CC(=CC=C1)C(CCCCC)O | C23H29NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.05 g | [Pd] | Pd
product | N-Methyl-2-[3-(1-hydroxyhexyl)phenoxymethyl]-1,2,3,4-tetrahydroquinoline | CN1C(CCC2=CC=CC=C12)COC1=CC(=CC=C1)C(CCCCC)O | C23H31NO2
